datasets/10k__Tet_Int.csv
SMILES Labelled
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCCCCCC)CC)CC>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCCCCCC)CC)CC 21=20;20,10=10"
"[O:10]([K])C([H])/C(C)=C([H])\C([H])[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])C([H])=C(C)C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[OH:21][CH:20]2([H])C3=C(C(C([OH+:10]2)C)O)C=CC=C3>>[OH:10]C(C(C1=C(C=CC=C1)[CH:20]([H])=[OH+:21])O)C 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)C([H])=C(C)C(C)[NH+:10]1(C)>>[NH:10](C)C(C)/C(C)=C([H])\C(C)[C:20](C)=[O:21] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[NH:10]([H])C(CC)C([H])C(C)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(C)C([H])C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"[H]N([C:20]1(OC(C([O:21]1)CCCCCC)C1=CC=CC=C1)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C([O-:21])CCCCCC)C1=CC=CC=C1)[H] 10=20;20,21=21"
"[H][S:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7 10=20;20,21=21"
"[K][O+:21]([C:20]([O-:10])(OCC)OC1=CC=CC=C1)CCCCCC>>[K][O:21]CCCCCC.[C:20](=[O:10])(OCC)OC1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[O]CC.[Cl-]>>[Cl-].[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[O]CC 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][O+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[O:10]([Na])C(C)C(C)/C(C)=C(C)\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)=C(C)C(C)C(C)[O+:10]1([Na]) 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)[H])CC>>[H]N([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)[H])[O-:10])CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([O:21]C)([O][H])[O]CC.[Cl-]>>[Cl-].[H][O:10][H].C[O+:21]=[C:20]([O][H])[O]CC 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(CC)[O][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"CN([C:20]([O-:10])(OCCCCCC)[Cl:21])CC>>CN([C:20](=[O:10])OCCCCCC)CC.[Cl-:21] 10=20;20,21=21"
"[H][O:10]C([H])C(C)[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H][S:10]C([H])C([H])C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C)C(CC)[S]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C(CC)[S][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[O-:10]C(CC)C([H])/C(C)=C([H])\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C([H])=C(C)C([H])C(CC)[O:10]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(CC)C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"[OH:10]C(CCC)C([H])/C(C)=C(C)\[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C(C)=C(C)C([H])C(CCC)[OH+:10]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21]C)[S][CH](CC)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](CC)[CH](C)C([H])[O]2.[H][S:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(CC)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[OH:21][C:20]1(OCC)[OH+:10]C(C)C(O)C1O>>[OH:10]C(C)C(O)C([C:20](OCC)=[OH+:21])O 21=20;20,10=10"
"C[CH:20]([N:10](C)C1=C-C=C-C=C1)[Cl:21]>>C[CH:20]=[N+:10](C)C1=C-C=C-C=C1.[Cl-:21] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[O][H].[Cl-]>>[Cl-].CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[O][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C([O:21]1)C)C)[O-:10])[H]>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])C)C)[H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)CC)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)C.[O-:21]CCCCCC 10=20;20,21=21"
